Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[C:1](O)[CH3:2].[CH3:3][NH:4][c:5]1[c:6]([NH2:7])[cH:8][cH:9][c:10](-[c:11]2[cH:12][cH:13][cH:14][cH:15][c:16]2[Cl:17])[c:18]1[C:19]#[N:20]>>[c:1]1([CH3:2])[n:4]([CH3:3])[c:5]2[c:6]([n:7]1)[cH:8][cH:9][c:10](-[c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]1[Cl:17])[c:18]2[C:19]#[N:20],[CH3:3][NH:4][c:5]1[c:6]([NH2:7])[cH:8][cH:9][c:10](-[c:11]2[cH:12][cH:13][cH:14][cH:15][c:16]2[Cl:17])[c:18]1[C:19]#[N:20].[O:101]=[C:1]([OH:102])[CH3:2].[O:301]=[C:302]([n:303]1[c:304][n:305]cc1)[n:306]2cc[n:307][c:308]2>>[c:1]1([CH3:2])[n:4]([CH3:3])[c:5]2[c:6]([n:7]1)[cH:8][cH:9][c:10](-[c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]1[Cl:17])[c:18]2[C:19]#[N:20],imidazole_synthesis,"[(305, 102.1), ([102.1, 102], 102), (102, 302), ([302, 301], 301), (301, [301, 302]), ([302, 303], [303, 304]), ([304, 305], 305), (4, 1), ([1, 101], 101), (101, [101, 1]), ([1, 102], [102, 302]), ([302, 306], [306, 308]), ([308, 307], 307), (307, 4.1), ([4.1, 4], 4), (7, 1), ([1, 101], 101), (101, 7.1), ([7.1, 7], 7), (101, 7.1), ([7.1, 7], [7, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][n:4][n:5]([CH3:6])[c:7]1[CH2:8][O:9][c:10]1[cH:11][cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18][cH:19]1)=[O:20].[CH3:21][N:22]([NH2:23])[C:24](=[O:25])[O:26][C:27]([CH3:28])([CH3:29])[CH3:30]>>[C:1]([c:2]1[cH:3][n:4][n:5]([CH3:6])[c:7]1[CH2:8][O:9][c:10]1[cH:11][cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18][cH:19]1)(=[O:20])[NH:23][N:22]([CH3:21])[C:24](=[O:25])[O:26][C:27]([CH3:28])([CH3:29])[CH3:30],[OH:101][C:1]([c:2]1[cH:3][n:4][n:5]([CH3:6])[c:7]1[CH2:8][O:9][c:10]1[cH:11][cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18][cH:19]1)=[O:20].[CH3:21][N:22]([NH2:23])[C:24](=[O:25])[O:26][C:27]([CH3:28])([CH3:29])[CH3:30].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][n:4][n:5]([CH3:6])[c:7]1[CH2:8][O:9][c:10]1[cH:11][cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18][cH:19]1)(=[O:20])[NH:23][N:22]([CH3:21])[C:24](=[O:25])[O:26][C:27]([CH3:28])([CH3:29])[CH3:30],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (23, 1), ([1, 20], 20), (303, 23.1), ([23.1, 23], 23), (20, [20, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[n:3][c:4]2[cH:5][c:6]([Cl:7])[cH:8][c:9]([F:10])[c:11]2[n:12]1[CH2:13][CH2:14][C:15]([F:16])([F:17])[F:18].[CH3:19][S:20](=[O:21])(=[O:22])[c:23]1[n:24][nH:25][c:26]2[cH:27][n:28][cH:29][cH:30][c:31]12>>[CH2:1]([c:2]1[n:3][c:4]2[cH:5][c:6]([Cl:7])[cH:8][c:9]([F:10])[c:11]2[n:12]1[CH2:13][CH2:14][C:15]([F:16])([F:17])[F:18])[n:25]1[n:24][c:23]([S:20]([CH3:19])(=[O:21])=[O:22])[c:31]2[c:26]1[cH:27][n:28][cH:29][cH:30]2,[Cl:101][CH2:1][c:2]1[n:3][c:4]2[cH:5][c:6]([Cl:7])[cH:8][c:9]([F:10])[c:11]2[n:12]1[CH2:13][CH2:14][C:15]([F:16])([F:17])[F:18].[CH3:19][S:20](=[O:21])(=[O:22])[c:23]1[n:24][nH:25][c:26]2[cH:27][n:28][cH:29][cH:30][c:31]12>>[CH2:1]([c:2]1[n:3][c:4]2[cH:5][c:6]([Cl:7])[cH:8][c:9]([F:10])[c:11]2[n:12]1[CH2:13][CH2:14][C:15]([F:16])([F:17])[F:18])[n:25]1[n:24][c:23]([S:20]([CH3:19])(=[O:21])=[O:22])[c:31]2[c:26]1[cH:27][n:28][cH:29][cH:30]2,SN2,"[(25, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[c:3]([O:4][CH2:5][c:6]2[cH:7][c:8]([O:9][CH3:10])[c:11]([O:12][CH2:13][c:14]3[n:15][c:16](-[c:17]4[cH:18][cH:19][cH:20][o:21]4)[o:22][c:23]3[CH3:24])[cH:25][cH:26]2)[n:27][n:28](-[c:29]2[cH:30][cH:31][cH:32][cH:33][cH:34]2)[cH:35]1.[N:36]#[C:37][CH2:38][C:39]#[N:40]>>[CH:1]([c:2]1[c:3]([O:4][CH2:5][c:6]2[cH:7][c:8]([O:9][CH3:10])[c:11]([O:12][CH2:13][c:14]3[n:15][c:16](-[c:17]4[cH:18][cH:19][cH:20][o:21]4)[o:22][c:23]3[CH3:24])[cH:25][cH:26]2)[n:27][n:28](-[c:29]2[cH:30][cH:31][cH:32][cH:33][cH:34]2)[cH:35]1)=[C:38]([C:37]#[N:36])[C:39]#[N:40],[O:101]=[CH:1][c:2]1[c:3]([O:4][CH2:5][c:6]2[cH:7][c:8]([O:9][CH3:10])[c:11]([O:12][CH2:13][c:14]3[n:15][c:16](-[c:17]4[cH:18][cH:19][cH:20][o:21]4)[o:22][c:23]3[CH3:24])[cH:25][cH:26]2)[n:27][n:28](-[c:29]2[cH:30][cH:31][cH:32][cH:33][cH:34]2)[cH:35]1.[N:36]#[C:37][CH2:38][C:39]#[N:40].[OH-:301]>>[CH:1]([c:2]1[c:3]([O:4][CH2:5][c:6]2[cH:7][c:8]([O:9][CH3:10])[c:11]([O:12][CH2:13][c:14]3[n:15][c:16](-[c:17]4[cH:18][cH:19][cH:20][o:21]4)[o:22][c:23]3[CH3:24])[cH:25][cH:26]2)[n:27][n:28](-[c:29]2[cH:30][cH:31][cH:32][cH:33][cH:34]2)[cH:35]1)=[C:38]([C:37]#[N:36])[C:39]#[N:40],aldol_condensation,"[(301, 38.1), ([38.1, 38], [38, 37]), ([37, 36], 36), (36, [36, 37]), ([37, 38], 1), ([1, 101], 101), (101, 301.1), ([301.1, 301], 301), (301, 38.1), ([38.1, 38], [38, 37]), ([37, 36], 36), (36, [36, 37]), ([37, 38], [38, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
